US07056917B2
(A) tert-Butyl (E)-3-{8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-2-(tetrahydro-3-furanylmethoxy)-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate
tert-Butyl (E)-3-(2-hydroxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoate (17 mg) was added with dimethylformamide (3 ml), diisopropylethylamine (500 ml) and 3-(iodomethyl)tetrahydrofuran (50 ml), and then the mixture was stirred at 80° C. for 16 hours. The reaction mixture was added with ethyl acetate and saturated brine, and the organic layer was further washed twice with saturated brine and dried over magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography to obtain the title compound (14 mg).

reactant | tert-Butyl (E)-3-(2-hydroxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoate | 17 mg | OC=1N=C2N(C(C1/C=C/C(=O)OC(C)(C)C)=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C | C23H27N3O4S
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | diisopropylethylamine | 500 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(iodomethyl)tetrahydrofuran | 50 ml | ICC1COCC1 | C5H9IO
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (E)-3-{8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-2-(tetrahydro-3-furanylmethoxy)-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate | 14 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)OCC2COCC2)/C=C/C(=O)OC(C)(C)C)=O)C=C1 | C28H35N3O5S
